*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-03[uF]/100[V]
* Murata P/N :GGM155R72A102KA37
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GGM155R72A102KA37 Port1 Port2
C01 Port1 N01 9.98e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.75e-10
R03 N02 N03 2.43e-01
C04 N03 N04 1.04e-07
R04 N03 N04 1.70e+04
C05 N04 N05 1.61e-07
R05 N04 N05 9.98e+02
C06 N05 N06 1.45e-07
R06 N05 N06 8.90e+01
C07 N06 N07 1.64e-07
R07 N06 N07 1.02e+01
C08 N07 N08 9.37e-08
R08 N07 N08 2.82e+00
C09 N08 N09 6.24e-08
R09 N08 N09 5.53e-01
C10 N09 N10 1.64e-08
R10 N09 N10 2.65e-01
C11 N10 N11 1.01e-08
R11 N10 N11 7.82e-02
L12 N11 N12 1.83e-11
R12 N11 N12 5.96e-01
C13 N12 N13 9.65e-10
L13 N12 N13 1.82e-11
R13 N12 N13 1.95e-01
C14 N13 Port2 2.20e-12
L14 N13 Port2 1.35e-10
R14 N13 Port2 1.23e+01
.ENDS GGM155R72A102KA37
